US07141564B2
(a) 2,4-Difluoro-5-nitro-benzoic acid ethyl ester
2,4-Difluorobenzoic acid ethyl ester (5.33 g) was cooled to 0° C. and treated with concentrated sulfuric acid (3.5 mL) and then fuming nitric acid (3.5 mL). The mixture was stirred for 2 hours at 0° C. and then partitioned between dichloromethane (2×50 mL) and water (25 mL). The organic phase was back extracted with water (25 mL) and then dried over magnesium sulfate and concentrated in vacuo. This provided the desired compound as a white solid (5.00 g) which was used without further purification.

reactant | 2,4-Difluorobenzoic acid ethyl ester | 5.33 g | C(C)OC(C1=C(C=C(C=C1)F)F)=O | C9H8F2O2
reactant | sulfuric acid | 3.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 3.5 mL | [N+](=O)(O)[O-] | HNO3
product | 2,4-Difluoro-5-nitro-benzoic acid ethyl ester | 5.00 g | C(C)OC(C1=C(C=C(C(=C1)[N+](=O)[O-])F)F)=O | C9H7F2NO4
